* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1584-3.38.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 22µ
Rload OUT 0 500
X§U1 0 OUT IN LT1584-3.38
.tran 1
.lib LT1584.lib
.backanno
.end
