* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1634-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N002 0 LT1634-2.5
V1 N001 0 3
R1 N001 N002 50K
.dc temp -40 80 .1
.lib LTC3.lib
.backanno
.end
