* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1634-4.096.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
R1 N001 N002 90K
X§U1 N002 0 LT1634-4.096
.dc temp -40 80 .1
.lib LTC3.lib
.backanno
.end
