* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1021-10.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 IN 0 OUT N001 LT1021-10
V1 IN 0 15
R1 OUT N001 {10K*(1-x)}
R2 N001 0 {10K*x}
.tran 1m startup
.step param X .1 .9 .1
.lib LT1021-10.sub
.backanno
.end
