* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1021-5.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 IN 0 OUT N001 LT1021-5
V1 IN 0 12
R1 OUT N001 27K
R2 OUT N002 {50K*(1-x)}
R3 N002 0 {50K*x}
D1 N001 N002 1N4148
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.dc TEMP -50 125 1
.step param X list .2 .5 .8
.lib LT1021-5.sub
.backanno
.end
