* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1021-7.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 IN 0 OUT LT1021-7
V1 IN 0 12
.tran 1m startup
.lib LT1021-7.sub
.backanno
.end
