* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1076-5.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N004 0 70K
L1 N001 N002 100µ
D1 0 N001 MBRS340
V1 IN 0 20
C1 N006 N005 .033µ
C2 N002 0 500µ Rser=.1
R2 0 N006 1.5K
X§U1 IN N001 N004 0 N002 N005 N003 LT1076-5
Rload N002 0 5
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5m startup
.lib LT1076-5.sub
.backanno
.end
