* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1085-12.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 20) Rser=0.1
Rload OUT 0 10
C1 OUT 0 10µ
X§U1 0 OUT IN LT1085-12
.tran 1
.lib LT1083.lib
.backanno
.end
