* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1107-5.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N001 33µ Rser=0.02 Rpar=5000
D1 N001 OUT MBRS140
C2 OUT 0 100µ Rser=0.02
V1 IN 0 3
X§U1 IN IN N001 0 0 N002 N003 OUT LT1107 top=220K bot=73.5K
Rload OUT 0 30
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5m startup
.lib LT1107.sub
.backanno
.end
