* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1108-12.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
C2 OUT 0 100µ Rser=0.02
D1 N001 OUT MBRS360
L1 IN N001 33µ Rser=0.02 Rpar=5000
X§U1 IN IN N001 0 0 N002 N003 OUT LT1108 top=753K bot=87.4K
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5m startup
.lib LT1108.sub
.backanno
.end
