* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1175-5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 -5
Rload 0 OUT 100
C1 0 OUT 1µ Rser=1
X§U1 IN IN OUT OUT 0 N001 IN LT1175-5
.tran 1m startup
.lib LT1175-5.sub
.backanno
.end
