* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1176-5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 10
L1 N001 OUT 100µ
D1 0 N001 1N5819
C1 OUT 0 470µ Rser=.1
R3 N005 N006 2.8K
C2 N006 0 .01µ
X§U1 IN N004 0 OUT N003 N002 N005 N001 LT1176 top=2.8K bot=2.2K
Rload OUT 0 5
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 5m startup
.lib LT1176.sub
.backanno
.end
