* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1236-10.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 pwl(0 0 1u 12)
X§U1 NC_01 0 OUT LT1236-10
R1 IN OUT 1K
.tran 20u
.lib LTC4.lib
.backanno
.end
