* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1424-9.asc
* Generated by LTspice 24.1.9 for Windows.
L1 IN N003 20µ
L2 0 N001 20µ
V1 IN 0 6
C1 N004 0 1000p
C2 N005 0 .1µ
D1 N001 OUT MBRS130L
C3 OUT 0 10µ Rser=.1
X§U1 N002 N004 MP_01 0 0 N003 IN N005 LT1424-9
Rload OUT 0 50
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 1
.tran 2m startup
.lib LT1424-9.sub
.backanno
.end
