* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1461-3.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5.5
I1 N002 0 PULSE(0 10m 1.5m 10n 10n 2m 200m)
C1 N002 0 2µ
X§U1 0 N001 N001 N002 LT1461-3
.tran 7m
.lib LT1461.lib
.backanno
.end
