* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1521-3.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 1.5µ
R3 OUT 0 500
X§U1 OUT OUT 0 MP_01 N001 MP_02 MP_03 IN LT1521-3
.tran 1
.lib LT1521.lib
.backanno
.end
