* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1615-1.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 1µ
D1 N001 OUT BAT54
L1 IN N001 10µ Rpar=20K
R2 N002 0 130K
R1 OUT N002 1Meg
V1 IN 0 4
X§U1 N001 0 N002 IN IN LT1615-1
Rload OUT 0 1K
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1.5m startup
.lib LT1615-1.sub
.backanno
.end
