* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1641-2.asc
* Generated by LTspice 24.1.9 for Windows.
R1 IN N004 49.9K
R2 N004 0 3.4K
C1 N008 0 0.68µ
C2 0 N005 10n Rser=1K
R3 N002 N005 10
R5 IN N001 20m
M§Q1 N001 N002 OUT OUT IRF530
R6 OUT N006 59K
R7 N006 0 3.57K
R8 OUT N009 24.3K
C3 OUT 0 30µ
V1 IN 0 PWL(0 0 2.7m 0 2.701m 24)
S1 N004 0 N007 0 myS1
V2 N007 0 PWL(0 0 80m 0 80.001m 1 100m 1 100.001m 0 215m 0 215.001m 1 225m 1 225.001m 0 500m 0 500.001m 1 510m 1 510.001m 0 2000m 0)
S2 OUT 0 N003 0 myS2
V3 N003 0 PWL(0 0 140m 0 140.001m 1 160m 1 160.001m 0 2000m 0)
D2 OUT N005 BZX84C15L
X§U1 N004 N006 N009 0 N008 N005 N001 IN LT1641-2
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
.model myS1 SW(Ron=0.1 Roff=1G Vt=0.5 Vh=-.4)
.model myS2 SW(Ron=0.1 Roff=1K Vt=0.5 Vh=-.4)
.lib LT1641-2.sub
.backanno
.end
